US06489485B2
A solution of 6-[2-(4-amino-phenyl)-3-cyclopentyl-propionylamino]-nicotinic acid methyl ester (236.1 mg, 0.65 mmol) in tetrahydrofuran (15 mL) at 25° C. was treated with N,N-diisopropylethylamine (0.27 mL, 1.54 mmol) and nicotinoyl chloride hydrochloride (115 mg, 0.64 mmol). The reaction mixture was stirred at 25° C. for 48 h. At this time, the reaction was concentrated in vacuo. Flash chromatography (Merck Silica gel 60, 230-400 mesh, 90/10 ethyl acetate/hexanes) afforded 6-(3-cyclopentyl-2-{4-[(pyridine-3-carbonyl)-amino]phenyl}-propionylamino)-nicotinic acid methyl ester (219.6 mg, 72.3%) as a white solid: mp 110-1 15° C.; EI-HRMS m/e calcd for C27H28N4O4 (M+) 472.2110, found 472.2109.

reactant | 6-[2-(4-amino-phenyl)-3-cyclopentyl-propionylamino]-nicotinic acid methyl ester | 0.65 mmol, 236.1 mg | COC(C1=CN=C(C=C1)NC(C(CC1CCCC1)C1=CC=C(C=C1)N)=O)=O | C21H25N3O3
reactant | N,N-diisopropylethylamine | 1.54 mmol, 0.27 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | nicotinoyl chloride hydrochloride | 0.64 mmol, 115 mg | Cl.C(C1=CN=CC=C1)(=O)Cl
solvent | tetrahydrofuran | 15 mL | O1CCCC1 | C4H8O
product | 6-(3-cyclopentyl-2-{4-[(pyridine-3-carbonyl)-amino]phenyl}-propionylamino)-nicotinic acid methyl ester | 219.6 mg, 72.3% | COC(C1=CN=C(C=C1)NC(C(CC1CCCC1)C1=CC=C(C=C1)NC(=O)C=1C=NC=CC1)=O)=O | C27H28N4O4
